US05039331
Preparation of 1-(7-fluoro-3-oxo-4-propargyl-2H-benzoxazin-6-ylthiocarbamoyl)-1,4,5,6-tetrahydropyridazine
0.32 g of 1,4,5,6-tetrahydropyridazine was dissolved in 20 ml of benzene, and 1.00 g of 7-fluoro-4-propargyl-2H-benzoxazin-3(4H)-one-6-ylisothiocyanate was added thereto. The mixture was stirred at room temperature for 3 hours. After the reaction, benzene was distilled off to obtain a crude product. This crude product was purified by silica gel column chromatography (developing solvent: chloroform) to obtain 0.38 g of the above-identified compound as yellow crystals.

reactant | 1,4,5,6-tetrahydropyridazine | 0.32 g | N1N=CCCC1 | C4H8N2
reactant | 7-fluoro-4-propargyl-2H-benzoxazin-3(4H)-one-6-ylisothiocyanate | 1.00 g | FC1=CC2=C(C(C(NO2)=O)CC#C)C=C1N=C=S | C12H7FN2O2S
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 1-(7-fluoro-3-oxo-4-propargyl-2H-benzoxazin-6-ylthiocarbamoyl)-1,4,5,6-tetrahydropyridazine | 0.38 g | FC1=CC2=C(C(C(NO2)=O)CC#C)C=C1NC(=S)N1N=CCCC1 | C16H15FN4O2S
